US20010047105A1
Following the procedure described for Example 5, Step B, 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (261.7 mg, 0.551 mmol) was deprotected with TBAF (1M in THF, 0.83 mL, 0.83 mmol). The addition was performed at 0° C. and the reaction mixture was stirred at room temperature for 24 h. Purification by medium pressure chromatography (CH2Cl2 to 1% MeOH in CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2) provided 7-{2-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (141 mg). 1H NMR (CDCl3) δ7.32 (m, 1H), 6.98 (m, 3H), 3.86 (m, 1H), 3.64 (m, 2H), 2.99-2.80 (m, 2H), 2.71 (m, 1H), 2.38 (m, 4H), 2.16 (m, 1H), 1.74-1.29 (m, 14H); MS 361.3 (M+1).

reactant | 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 0.551 mmol, 261.7 mg | C(C)(C)(C)[Si](OC(CCC1N(C(CC1)=O)CCCCCCC#N)CC1=CC(=CC=C1)F)(C)C | C27H43FN2O2Si
reactant | TBAF | 0.83 mmol, 1M, 0.83 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 7-{2-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 141 mg | FC=1C=C(C=CC1)CC(CCC1N(C(CC1)=O)CCCCCCC#N)O | C21H29FN2O2
